US04822403
Preparation of 2-(1-Cyclohexenyl)-3-thiophenesulfonamide
A solution of 3-bromo-2-(1-cyclohexenyl)-thiophene (prepared by the method of N. Gjos and S. Gronowitz, Acta. Chem. Scan., 26, 1851-59, (1972)) (8.0 g, 32.9 mmol) in ether (30 ml) was added dropwise to a stirring solution of n-butyllithium (1.37M, 25.2 ml, 34.6 mmol) in ether (60 ml) precooled to -78° C. The solution was stirred another 30 minutes at -78° C. and was then treated with sulfuryl chloride (3.2 ml, 40 mmol) in hexane (10 ml). After an additional 30 minutes at -78° C., anhydrous ammonia (9 ml, 300 mmol) was added, the suspension warmed to 25° C. and poured into ether, washed with water and brine, dried over magnesium sulfate and reduced in volume. The product was crystallized by trituration with butyl chloride and hexane affording 2.51 g white solid (31%) m.p. 115°-121° C.

reactant | 3-bromo-2-(1-cyclohexenyl)-thiophene | BrC1=C(SC=C1)C1=CCCCC1 | C10H11BrS
reactant | n-butyllithium | 34.6 mmol, 1.37M, 25.2 ml | C(CCC)[Li]
reactant | sulfuryl chloride | 40 mmol, 3.2 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ammonia | 300 mmol, 9 ml | N | H3N
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | hexane | 10 ml | CCCCCC | C6H14
product | 2-(1-Cyclohexenyl)-3-thiophenesulfonamide | C1(=CCCCC1)C=1SC=CC1S(=O)(=O)N | C10H13NO2S2
